US06500946B1
Production of 6-chloro-9-[2,3-dideoxy-2-fluoro-5-O-(triphenylmethyl)-β-D-threo-pentofuranosyl]-9H-purine, Part 2
113 mg (0.176 mmols) of 6-chloro-9-[2-O-(sulfurylimidazolyl)-3-deoxy-5-O-(triphenylmethyl)-β-D-erythro-pentofuranosyl]-9H-purine was dissolved in 1.80 ml of toluene, to which was added 0.18 ml (1.06 mmols) of triethylamine trihydrofluoride, and stirred overnight at 50° C. After having been cooled, 10.0 ml of ethyl acetate and 8.0 ml of an aqueous saturated solution of sodium hydrogencarbonate were added to this, to separate it into layers. The organic layer was dried with anhydrous sodium sulfate, and filtered. Then, the solvent was evaporated from the filtrate. The residue was dissolved in acetonitrile and analyzed through liquid chromatography. The intended product was obtained at an yield of 41.9%.

reactant | 6-chloro-9-[2-O-(sulfurylimidazolyl)-3-deoxy-5-O-(triphenylmethyl)-β-D-erythro-pentofuranosyl]-9H-purine | 0.176 mmols, 113 mg | ClC1=C2N=CN(C2=NC=N1)[C@H]1[C@H](OC=2N=CC(N2)=S(=O)=O)C[C@H](O1)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H25ClN6O5S
reactant | triethylamine trihydrofluoride | 1.06 mmols, 0.18 ml | F.F.F.C(C)N(CC)CC
reactant | ethyl acetate | 10.0 ml | C(C)(=O)OCC | C4H8O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 1.80 ml | C1(=CC=CC=C1)C | C7H8
product | 6-chloro-9-[2,3-dideoxy-2-fluoro-5-O-(triphenylmethyl)-β-D-threo-pentofuranosyl]-9H-purine | yield of 41.9% | ClC1=C2N=CN(C2=NC=N1)[C@H]1[C@H](C[C@H](O1)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)F | C29H24ClFN4O2
